US08685974B2
To a solution of 3-(dimethylamino)-1-(3-chloro-2-thienyl)-2-(pyrimidin-4-yl)prop-2-en-1-one (1 eq, 20 mmol) in ethanol (60 mL) was added hydrazine hydrate (1.5 eq, 30 mmol) and triethylamine (1.5 eq, 30 mmol). The reaction mixture was stirred at reflux for 2 h. The mixture was evaporated under reduced pressure. The obtained residue was dissolved in dichloromethane (100 mL) and methanol (10 mL), washed with brine (3×50 mL), dried over Na2SO4 and concentrated. The crude product was suspended in ethylacetate, filtered and dried to afford 2.9 g of 4-(3-(3-chloro-2-thienyl)-1H-pyrazol-4-yl)pyridine (55% yield).

reactant | 3-(dimethylamino)-1-(3-chloro-2-thienyl)-2-(pyrimidin-4-yl)prop-2-en-1-one | 20 mmol, 1 eq | CN(C=C(C(=O)C=1SC=CC1Cl)C1=NC=NC=C1)C | C13H12ClN3OS
reactant | hydrazine hydrate | 30 mmol, 1.5 eq | O.NN
reactant | triethylamine | 30 mmol, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-(3-(3-chloro-2-thienyl)-1H-pyrazol-4-yl)pyridine | 2.9 g, 55% yield | ClC1=C(SC=C1)C1=NNC=C1C1=CC=NC=C1 | C12H8ClN3S
